US05268389
Trifluoroacetic anhydride (100 g, 0.5 mole) was added dropwise to an ice-cooled solution of 2,3-dihydro-5-methyl-1,4-dioxin (30 g, 0.30 mole) in methylene chloride (50 ml) and pyridine (40 g, 0.50 mole). The mixture was stirred overnight and then evaporated under reduced pressure. To the residue was added ether (150 ml) and 10% sodium carbonate solution. The ether phase was separated, washed with dilute hydrochloric acid and water, dried over anhydrous sodium sulfate, filtered and evaporated to leave an oil, 1-(5,6-dihydro-3-methyl-1,4-dioxin-2-yl)-2,2,2-trifluoroethanone (12 g, 20% yield).

reactant | Trifluoroacetic anhydride | 0.5 mole, 100 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2,3-dihydro-5-methyl-1,4-dioxin | 0.30 mole, 30 g | CC=1OCCOC1 | C5H8O2
reactant | pyridine | 0.50 mole, 40 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-(5,6-dihydro-3-methyl-1,4-dioxin-2-yl)-2,2,2-trifluoroethanone | 12 g, 20% yield | CC1=C(OCCO1)C(C(F)(F)F)=O | C7H7F3O3
